US07897619B2
To a solution of (E)-isoquinoline-6-carbaldehyde oxime (2.14 g, 12.4 mmol) in 60 mL of DMF at 0° C. was added 1-chloropyrrolidine-2,5-dione (1.66 g, 12.4 mmol) (commercially available from Aldrich). The mixture was stirred for 10 minutes and then heated to 5° C. After 2½ hours, the DMF was removed by rotary evaporation. The residue was dissolved in 100 mL of THF and chilled to 0° C. To this mixture was added tributyl(ethynyl)stannane (4.50 g, 14.3 mmol) (commercially available from Aldrich). TEA (3.81 mL, 27.3 mmol) was then added dropwise. The mixture was gradually warmed to room temperature over 12 hours. The reaction was quenched with 50 mL of aqueous NH4Cl and diluted with 50 mL of water. The mixture was partitioned in a separatory funnel. The aqueous portion was extracted twice with 100 mL of EtOAc, and the combined organic layers were washed with 100 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (5% to 30% EtOAc/hexanes), afforded 6-(5-(tributylstannyl)isoxazol-3-yl)isoquinoline (1.87 g, 31.0% yield) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 9.29 (s, 1H), 8.58 (d, J=5.8 Hz, 1H), 8.26 (s, 1H), 8.14 (dd, J=1.3 Hz, 8.5 Hz, 1H), 8.05 (d, J=8.5 Hz, 1H), 7.72 (d, J=5.7 Hz, 1H), 6.83 (s, 1H), 1.65-1.57 (m, 6H), 1.38 (q, 7.3 Hz, 6H), 1.23 (t, J=8.2 Hz, 6H), 0.92 (t, 7.2 Hz, 9H).

reactant | (E)-isoquinoline-6-carbaldehyde oxime | 12.4 mmol, 2.14 g | C1=NC=CC2=CC(=CC=C12)/C=N/O | C10H8N2O
reactant | 1-chloropyrrolidine-2,5-dione | 12.4 mmol, 1.66 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tributyl(ethynyl)stannane | 14.3 mmol, 4.50 g | C(CCC)[Sn](C#C)(CCCC)CCCC
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-(5-(tributylstannyl)isoxazol-3-yl)isoquinoline | 1.87 g, 31.0% yield | C(CCC)[Sn](C1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)(CCCC)CCCC | InChI=1S/C12H7N2O.3C4H9.Sn/c1-2-11-8-13-5-3-9(11)7-10(1)12-4-6-15-14-12;3*1-3-4-2;/h1-5,7-8H;3*1,3-4H2,2H3;
